US09226922B2
(R)-1-(3-Methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (156 mg, 0.282 mmol) and triethylsilane (0.068 mL, 0.423 mmol) were stirred in TFA (2 mL) at room temperature for 2 h. Saturated NaHCO3 was added and the products extracted into EtOAc (×2). The combined organic extracts were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. Purification of the residue by flash chromatography (0-15% MeOH-EtOAc) gave (R)-1-(3-methoxy-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea. MS ESI calc'd. For C16H17N5O2 [M+1]+ 312. found 312. 1H NMR (500 MHz, DMSO-d6) δ 11.98 (s, 1H), 8.93 (s, 1H), 8.54 (s, 1H), 7.76 (br s, 1H), 7.48 (s, 1H), 7.35-7.31 (m, 4H), 7.25-7.20 (m, 1H), 4.88-4.83 (m, 1H), 3.96 (s, 3H), 1.39 (d, J=6.5 Hz, 3H).

reactant | (R)-1-(3-Methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.282 mmol, 156 mg | COC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C35H31N5O2
reactant | triethylsilane | 0.423 mmol, 0.068 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-1-(3-methoxy-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | COC1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2 | C16H17N5O2
